Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Carboplatin
 
Attending: ___.
 
Chief Complaint:
LLE swelling
 
Major Surgical or Invasive Procedure:
___

OPERATIONS:
1. Ultrasound-guided puncture of the right internal jugular
    vein, the right common femoral vein and the left
    popliteal vein.
2. Catheter placement in the inferior vena cava.
3. Venogram of the inferior vena cava and left iliofemoral
    vein.
4. Placement of a tulip inferior vena cava filter.
5. AngioJet thrombectomy of left iliofemoral vein.
6. Balloon angioplasty of left iliofemoral vein and
    inferior vena cava.
7. Thrombolysis of the left iliofemoral vein and inferior
    vena cava.

___

OPERATIONS:
1. Venogram of inferior vena cava and left iliofemoral
    veins.
2. Balloon angioplasty of the infrarenal inferior vena cava
    and left iliofemoral veins.
3. Stenting of the infrarenal inferior vena cava and left
    iliofemoral veins.

 
History of Present Illness:
his is a ___ year old female with a
history of endometrial cancer metastatic to bone, liver and 
lymph
nodes currently on  Doxil (s/p three cycles) with Pamidronate 
who
presents with left lower extremity swelling. . Discharged on 
___
with a diagnosis of DVT on lovenox. Changed to fondaparinux
yesterday. Received a dose yesterday and today. 

Since starting anticoagulation she has felt that the swelling is
worse and  went in to see her primary care physician  who
referred her to vascular service for consideration of
thrombolysis

 
Past Medical History:
Past Oncologic History: 
Endometrial Cancer papillary serious initially stage 1A/GrIII
- ___ underwent TAH/BSO with four cycles of carboplatin/taxol
- ___ CT scan in ___ showed a 4 cm retroperitoneal mass 
with enlarged retrocrural lymph nodes.  
- ___ radiation and carboplatin in ___ (carboplatin stopped 
after three doses secondary to hypersensitivity reaction)
- ___ supraclavicular lymphadenopathy biopsy proven 
endometrial cancer
- ___ treated with megace without response
- ___ underwent carboplatin desensitization at ___ and 
completed six cycles carboplatin/taxol
- ___ concurrent radiotherapy with Avastin at ___
- ___ new hepatic meastases and T10 lesion noted
- ___ started Doxil therapy monthly with zometa complicated by 
ankle pain now switched to pamidronate
Renal Cell Carcinoma ___ s/p right nephrectomy ___
. 
Past Medical History: 
Type II Diabetes
Hypertension  
Multinodular Goiter
Hypercholesterolemia
Vitamin D deficiency
Positive PPD
Obesity
Varicose Veins
Chronic anemia on procrit
 
Social History:
___
Family History:
She has two sisters who died of complications from diabetes.  
Her brother died of cancer of unknown type.  She is originally 
from ___. 
 
Physical Exam:
PHYSICAL EXAM
Vital Signs: Temp: 98.3 RR: 16 Pulse: 93 BP: 136/57  
Neuro/Psych: Oriented x3, Affect Normal. 
Neck: No right carotid bruit, No left carotid bruit. 
Skin: No atypical lesions. 
Heart: Regular rate and rhythm. 
Lungs: Clear. 
Gastrointestinal: Non distended, No masses, abnormal: ___
umbilical hernia. Previous hysterectomy scar Low midline. 
Rectal: Not Examined. 
Extremities: No popiteal aneurysm, No femoral bruit/thrill, No
RLE edema, abnormal: Extensive edema LLE extending to thigh. 
 
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RUE Radial: P. 
LUE Radial: P. 
RLE Femoral: P. DP: P. ___: S. 
LLE Femoral: P. DP: P. ___: S.
 
Pertinent Results:
___ 04:23AM BLOOD 

___ PTT-89.8* ___

___ 04:31AM BLOOD 

___

___ 04:23AM BLOOD 

Glucose-138* UreaN-22* Creat-1.1 Na-141 K-3.8 HCO3-22

___ 02:13AM BLOOD 

Calcium-8.5 Phos-4.3 Mg-2.0

___ 04:02PM BLOOD 

Glucose-120* Lactate-0.8 Na-140 K-4.8 Cl-107 calHCO3-22
 
Brief Hospital Course:
___ started on iv heparin

heme / onc consult pt with  metastatic endometrial cancer

pt pre-oped and consented for the procedure below

head CT, clear for recieving TPA

___

OPERATIONS:
1. Ultrasound-guided puncture of the right internal jugular
vein, the right common femoral vein and the left
popliteal vein.
2. Catheter placement in the inferior vena cava.
3. Venogram of the inferior vena cava and left iliofemoral
vein.
4. Placement of a tulip inferior vena cava filter.
5. AngioJet thrombectomy of left iliofemoral vein.
6. Balloon angioplasty of left iliofemoral vein and
inferior vena cava.
7. Thrombolysis of the left iliofemoral vein and inferior
vena cava.

fibrinogen followed, no sequele from TPA over night.

Hct dropped, CT scan revealed no bleed. On Dc HCT stable

___

OPERATIONS:
1. Venogram of inferior vena cava and left iliofemoral
veins.
2. Balloon angioplasty of the infrarenal inferior vena cava
and left iliofemoral veins.
3. Stenting of the infrarenal inferior vena cava and left
iliofemoral veins. 

Venous sheath removed, no sequele

Per hem onc, no coumadin. Fundoperinox started

Leg swelling decreased on DC

 
Medications on Admission:
lovenox ___ BID, amlodipine 10', lisinopirl 40', atenolol 50', 
procrit 40,000 qweek 
 
Discharge Medications:
1. T.E.D. Knee Length-M-Long     Misc Sig: One (1) pair 
Miscellaneous once a day as needed for lower extremity swelling.
Disp:*2 pairs* Refills:*0*
2. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

3. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
5. Fondaparinux 5 mg/0.4 mL Syringe Sig: One (1)  Subcutaneous 
DAILY (Daily) as needed for dvt.
Disp:*30 5 mg/0.4 mL Syringe* Refills:*0*
6. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left lower extremity acute deep venous thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions for Deep Vein Thrombosis (DVT)

You have been diagnosed with deep vein thrombosis (DVT). You 
have a blood clot in a deep vein. Hospital and home treatment 
for DVT include medications to keep the clot from growing. Here 
are guidelines for home care and lifestyle changes to reduce 
your risk of future blood clots.

Home Care

Take your medications exactly as directed. ___ skip doses. 
Your medications will thin your blood and help prevent new 
clots.

Keep your appointments.

Avoid sitting, standing, or lying down for long periods without 
moving your legs and feet.

When traveling by car, make frequent stops to get out and move 
around.

On long airplane, train, or bus rides, get up and move around 
when possible.

If you can’t get up, wiggle your toes and tighten your calves to 
keep your blood moving.

If you have to stay in bed, do leg exercises.

Wear support stockings as directed by your doctor.

Elevate your legs whenever they feel swollen or heavy.

Elevate the foot of your mattress 5 to 6 inches using a foam 
wedge.

Lifestyle Changes

Begin an exercise program. Ask your doctor how to get started. 
You can benefit from simple activities such as walking or 
gardening.

Maintain a healthy weight. Get help to lose any extra pounds.

Cut back on salt.

Limit canned, dried, packaged, and fast foods.

___ add salt to your food at the table.

Season foods with herbs instead of salt when you cook.

Break the smoking habit. Enroll in a stop-smoking program to 
improve your chances of success.

When to Call Your Doctor:

Call your doctor immediately if you have any of the following:
Swelling or pain in your leg (often in just one leg)
Sudden, continuous pain deep in a muscle
Pain that worsens when you are active or when you stand still 
for a long time
Chest pain
Sudden shortness of breath
Cough with blood or bloody sputum
Bruises
Heavy or uncontrolled bleeding
Blood in your urine, stool, or vomit
Black or tarry stools

 
Followup Instructions:
___